US05324449
First, 4.6 g of dicyclohexylcarbodiimide in 80 ml of toluene are added to a mixture of 4 g of 4-trifluoromethoxyphenol and 20 ml of toluene, 0.2 g of dimethylaminopyridine is then added, the mixture is stirred at room temperature for I hour, and 3.8 g of trans-4-ethylcyclohexanecarboxylic acid are then added. After work-up and purification by chromatography and/or crystallization, 4-(trifluoromethoxy)phenyl trans-4-ethylcyclohexanecarboxylate is obtained.

reactant | dicyclohexylcarbodiimide | 4.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-trifluoromethoxyphenol | 4 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trans-4-ethylcyclohexanecarboxylic acid | 3.8 g | C(C)[C@@H]1CC[C@H](CC1)C(=O)O | C9H16O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(trifluoromethoxy)phenyl trans-4-ethylcyclohexanecarboxylate | C(C)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)OC(F)(F)F | C16H19F3O3
